Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.07351234364
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][O:2][O:3][C:4][H:5],6.96178512
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]1[C:2][C:3]1[H:4],3.4686527363
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13],1.73760582222
[C:1]=[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:4],7.53334508762
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9])[C:11]([H:12])([H:13])[H:14],4.67789989353
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-1.99787824785
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]#[C:7][O:8][H:9].[H:6],2.40731025746
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.36933725539
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],4.97694565239
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][O:8][H:9]>>[C:6]#[C:7][O:8][H:9].[H:1][O:2][C:3]#[C:4][H:5],3.2178898859500005
[C:3]([H:4])([H:5])=[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:7]([H:6])([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-2.11414740588
[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-0.76190179146
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](\[H:4])(=[C:5]\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.5159928965800007
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.8423324989
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.64070776754
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.32911881309
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.2079183987
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]1([H:13])[H:14]>>[H:1][C:2]([C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[O:11])=[C:12]([H:13])[H:14],-0.95301907
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5][H:6],5.415251215780001
[C:3]([H:4])=[C:5]([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-6.166041196009999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11],4.054235866530002
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.581342704330001
[H:1].[O:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-2.65277304736
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],7.77271983128
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:13]([H:14])[H:15].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.15605976311
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][H:3],6.148745999380001
